US04616014
A solution of triethylamine (15 g) in chloroform (15 ml) was added dropwise to a stirred mixture of 2-aminopropiophenone hydrochloride (12 g) and chloroform (65 ml) at ice bath temperature in 10 minutes. To the stirred mixture was added dropwise a solution of ethyl chloroformate (8 g) in chloroform (20 ml) under the same conditions and then stirring was continued for 4 hours at ice bath temperature. The solution was evaporated under reduced pressure and the residue was dissolved in a mixture of ethyl acetate and water. The organic layer was separated, washed successively with a saturated aqueous solution of sodium bicarbonate, water, 5% hydrochloric acid, and water, dried over magnesium sulfate, and evaporated under reduced pressure to give an oil containing the object compound. The above obtained product was purified by column chromatography on silica gel (200 g) using a mixture of diisopropyl ether and chloroform (1:4) as an eluent to give an oil of 2-ethoxycarbonylaminopropiophenone (10.48 g).

reactant | triethylamine | 15 g | C(C)N(CC)CC | C6H15N
reactant | 2-aminopropiophenone hydrochloride | 12 g | Cl.NC(C(=O)C1=CC=CC=C1)C
reactant | ethyl chloroformate | 8 g | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 65 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxycarbonylaminopropiophenone | 10.48 g | C(C)OC(=O)NC(C(=O)C1=CC=CC=C1)C | C12H15NO3
